* extracted by klt extract --deck sky130

* cell gen_compose_0
* pin BOOST_N
* pin BOOST_P
* pin BPREF_N
* pin BPREF_P
* pin SAMPLE
* pin TOP_N
* pin TOP_P
* pin VCM
* pin VDD
* pin VINN
* pin VINP
* pin vsubs
.SUBCKT gen_compose_0 BOOST_N BOOST_P BPREF_N BPREF_P SAMPLE TOP_N TOP_P VCM
+ VDD VINN VINP vsubs
* device instance $1 r0 *1 47.595,0.5 nfet
M$1 \$8 \$6 vsubs vsubs nfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U PD=2.94U
* device instance $2 r0 *1 49.885,0.5 nfet
M$2 \$8 SAMPLE VINP vsubs nfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U PD=2.94U
* device instance $3 r0 *1 52.3,0.5 nfet
M$3 \$5 \$6 vsubs vsubs nfet L=0.5U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $4 r0 *1 59.42,0.5 nfet
M$4 \$11 \$6 vsubs vsubs nfet L=0.5U W=1U AS=0.42P AD=0.42P PS=2.84U PD=2.84U
* device instance $5 r0 *1 61.835,0.5 nfet
M$5 \$10 SAMPLE VINN vsubs nfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U PD=2.94U
* device instance $6 r0 *1 64.125,0.5 nfet
M$6 \$10 \$6 vsubs vsubs nfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U PD=2.94U
* device instance $7 r0 *1 66.415,0.5 nfet
M$7 \$6 SAMPLE vsubs vsubs nfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U PD=2.94U
* device instance $8 r0 *1 43.015,1 nfet
M$8 VINP \$5 TOP_P vsubs nfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $9 r0 *1 45.305,1 nfet
M$9 VINN \$11 TOP_N vsubs nfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $10 r0 *1 54.715,8 nfet
M$10 BPREF_P SAMPLE VCM vsubs nfet L=0.15U W=16U AS=7.52P AD=7.52P PS=32.94U
+ PD=32.94U
* device instance $11 r0 *1 57.005,8 nfet
M$11 BPREF_N SAMPLE VCM vsubs nfet L=0.15U W=16U AS=7.52P AD=7.52P PS=32.94U
+ PD=32.94U
* device instance $12 r0 *1 2.67,0.5 pfet
M$12 BOOST_P \$5 VDD BOOST_P pfet L=0.5U W=1U AS=0.42P AD=0.42P PS=2.84U
+ PD=2.84U
* device instance $13 r0 *1 5.745,0.5 pfet
M$13 \$5 \$6 BOOST_P BOOST_P pfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U
+ PD=2.94U
* device instance $14 r0 *1 10.885,0.5 pfet
M$14 \$8 \$6 VINP VDD pfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U PD=2.94U
* device instance $15 r0 *1 23.685,0.5 pfet
M$15 \$10 \$6 VINN VDD pfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U PD=2.94U
* device instance $16 r0 *1 28.825,0.5 pfet
M$16 \$11 \$6 BOOST_N BOOST_N pfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U
+ PD=2.94U
* device instance $17 r0 *1 32.15,0.5 pfet
M$17 BOOST_N \$11 VDD BOOST_N pfet L=0.5U W=1U AS=0.42P AD=0.42P PS=2.84U
+ PD=2.84U
* device instance $18 r0 *1 17.285,1 pfet
M$18 \$6 SAMPLE VDD VDD pfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $19 r0 *1 14.085,8 pfet
M$19 BPREF_P \$6 VCM VDD pfet L=0.15U W=16U AS=7.52P AD=7.52P PS=32.94U
+ PD=32.94U
* device instance $20 r0 *1 20.485,8 pfet
M$20 BPREF_N \$6 VCM VDD pfet L=0.15U W=16U AS=7.52P AD=7.52P PS=32.94U
+ PD=32.94U
* device instance $21 r0 *1 79.56,5.4 sky130_fd_pr__model__cap_mim
C$21 \$8 BOOST_P 1.99528e-13 sky130_fd_pr__model__cap_mim
* device instance $22 r0 *1 90.86,5.4 sky130_fd_pr__model__cap_mim
C$22 \$10 BOOST_N 1.99528e-13 sky130_fd_pr__model__cap_mim
* device instance $23 r0 *1 123.21,23.95 sky130_fd_pr__model__cap_mim
C$23 BPREF_P TOP_P 4.434864e-12 sky130_fd_pr__model__cap_mim
* device instance $24 r0 *1 171.61,23.95 sky130_fd_pr__model__cap_mim
C$24 BPREF_N TOP_N 4.434864e-12 sky130_fd_pr__model__cap_mim
.ENDS gen_compose_0
